US06218410B1
N-Benzyloxycarbonylisonipecotyl chloride (5 g) was added to a solution of 4-amino-1-tert-butoxycarbonyl-1H-pyrrolo[2,3-b]pyridine (3 g) and diisopropylethyamine (2.16 g) in acetonitrile (40 ml) and the mixture was stirred at room temperature for 2 hours. The reaction mixture was poured into ice-water and extracted with chloroform. The residue obtained by water washing, drying and then concentration under reduced pressure was purified by silica gel column chromatography to give 6.3 g of N-(1-tert-butoxycarbonyl-1H-pyrrolo-[2,3-b]pyridin-4-yl)-1-benzyloxycarbonyl-4-piperidinecarboxamide.

reactant | N-Benzyloxycarbonylisonipecotyl chloride | 5 g | C(C1=CC=CC=C1)OC(=O)N1CCC(C(=O)Cl)CC1 | C14H16ClNO3
reactant | 4-amino-1-tert-butoxycarbonyl-1H-pyrrolo[2,3-b]pyridine | 3 g | NC1=C2C(=NC=C1)N(C=C2)C(=O)OC(C)(C)C | C12H15N3O2
reactant | diisopropylethyamine | 2.16 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | N-(1-tert-butoxycarbonyl-1H-pyrrolo-[2,3-b]pyridin-4-yl)-1-benzyloxycarbonyl-4-piperidinecarboxamide | 6.3 g | C(C)(C)(C)OC(=O)N1C=CC=2C1=NC=CC2NC(=O)C2CCN(CC2)C(=O)OCC2=CC=CC=C2 | C26H30N4O5
